US09163021B2
1-[2-(tert-Butyl-dimethyl-silyloxy)-1,1-dimethyl-ethyl]-7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine
To a solution of 2-(7-fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propan-1-ol (Preparation 72, 4.5 gm, 13.47 mmol) in DCM (90 mL) were added 2,6-lutidine (3.91 mL, 33.65 mmol) and tert-butyl dimethylsilyl trifluoromethanesulfonate (4.62 gm, 17.51 mmol) at 0° C. The resulting mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with DCM. The organic layer was washed with water, brine, dried over sodium sulphate, and evaporated in vacuo. The crude material was purified by silica gel column chromatography eluting with 10-12% EtOAc in Hexane to afford the title compound as off white solid (45%, 2.7 g).

reactant | 2-(7-fluoro-3-iodo-pyrrolo[3,2-c]pyridin-1-yl)-2-methyl-propan-1-ol | 13.47 mmol, 4.5 gm | FC=1C2=C(C=NC1)C(=CN2C(CO)(C)C)I | C11H12FIN2O
reactant | 2,6-lutidine | 33.65 mmol, 3.91 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl dimethylsilyl trifluoromethanesulfonate | 17.51 mmol, 4.62 gm | CC(C)(C)[Si](C)(C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(tert-Butyl-dimethyl-silyloxy)-1,1-dimethyl-ethyl]-7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridine | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)I)(C)C | C17H26FIN2OSi
